US08802659B2
[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-acetic acid ethyl ester
A solution of 2-bromo-6-(4-tert-butyl-cyclohexyloxy)-naphthalene (2 g, 5.5 mmol) in ether (10 mL) under nitrogen was added 1.6 M n-butyllithium in hexane (4 mL, 6.4 mmol) at 0° C. The solution was stirred for 30 min at 0° C., then treated with copper(I) bromide-dimethyl sulfide complex (0.8 g, 3.9 mmol). After 2 hrs stirring, a solution of ethyl bromoacetate (0.7 mL, 6 mmol) in ether (4 mL) was added. The solution was stirred at 0° C. for 2 hrs, then warmed to room temperature for 3 hrs. The reaction was quenched with 10% HCl aqueous then the insoluble was filtered off. The organic layer was washed with water, sodium bicarbonate aqueous, dried over MgSO4, filtered and concentrated. The crude was purified via silica gel column eluted with EtOAc in hexanes from 0 to 10% to give light yellow solid (0.45 g, yield: 22% yield). ESI-MS: 369.20 (M+H)+.

reactant | 2-bromo-6-(4-tert-butyl-cyclohexyloxy)-naphthalene | 5.5 mmol, 2 g | BrC1=CC2=CC=C(C=C2C=C1)OC1CCC(CC1)C(C)(C)C | C20H25BrO
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | hexane | 6.4 mmol, 4 mL | CCCCCC | C6H14
reactant | ethyl bromoacetate | 6 mmol, 0.7 mL | BrCC(=O)OCC | C4H7BrO2
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | ether | 4 mL | CCOCC | C4H10O
product | [6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-acetic acid ethyl ester | 0.45 g, yield: 22% yield | C(C)OC(CC1=CC2=CC=C(C=C2C=C1)OC1CCC(CC1)C(C)(C)C)=O | C24H32O3
